US07148215B2
1-Methyl-4-(4-nitrobenzoyl)[1,4]diazepane
A stirred solution of 1-methyl-[1,4]diazepane (2.19 mL) in dry dichloromethane (30 mL) was treated with a solution of 4-nitrobenzoyl chloride (3.6 g) in dry dichloromethane (30 mL) dropwise over 10 minutes. After stirring at room temperature for a further 10 minutes the reaction mixture was treated with triethylamine (2.8 mL) and then stirred for a further 3 hours. The reaction mixture was then treated with water (10 mL), the organic phase separated and further washed twice with a 2 M aqueous solution of sodium hydroxide (20 mL), then four times with water (15 mL). The organic phase was then dried over magnesium sulfate and evaporated to give the title compound (4.4 g) as brown oil, Rf 0.64 (dichloromethane:methanol, 4:1). MS: 264 [MH]+.

reactant | 1-methyl-[1,4]diazepane | 2.19 mL | CN1CCNCCC1 | C6H14N2
reactant | 4-nitrobenzoyl chloride | 3.6 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | triethylamine | 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-Methyl-4-(4-nitrobenzoyl)[1,4]diazepane | 4.4 g | CN1CCN(CCC1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H17N3O3
